US07381719B2
6-[4-(1-Benzyl-1,2,5,6-tetrahydro-pyridin-3-yl)-phenoxy]-nicotinamide hydrochloride salt
Combine bis(pinacolato)diboron (0.437 g, 1.72 mmol), potassium acetate (0.454 g, 4.62 mmol), 1,1′-bis(diphenylphosphino)ferrocene (0.0273 g, 0.0492 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (0.0377 g, 0.0461 mmol), flush with nitrogen, treat with a solution of trifluoro-methanesulfonic acid 1-benzyl-1,2,5,6-tetrahydro-pyridin-3-yl ester (See Zheng, Q.; Yang, Y.; Martin, A. R. Tetrahedron Lett. 1993, 34, 2235-2238) (0.503 g, 1.56 mmol) in dioxane (10 mL), stir and heat at 80° C. After 4 h, concentrate the reaction mixture and dry in vacuo. Combine crude boronate, potassium carbonate (0.650 g, 4.70 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (0.0777 g, 0.0951 mmol), treat with a solution of 6-(4-iodo-phenoxy)-nicotinamide (0.582 g, 1.71 mmol) in dimethylformamide (10 mL), stir and heat at 80° C. After 4.5 h, cool the reaction mixture to ambient temperature, dilute with water (30 mL), and extract with ethyl acetate (3×30 mL). Wash combined organic extracts with brine (1×) dry over anhydrous magnesium sulfate, filter, and concentrate. Purify the residue by silica gel chromatography (10:1 to 5:1 ethyl acetate:methanol), then reverse-phase HPLC to provide 0.175 g (29%) of the title compound as a white solid: mass spectrum (electrospray) m/z=386.2 (M+1); 1H NMR (methanol-d4): 8.66 (d, 1H, J=2.4 Hz), 8.32 (dd, 1H, J=2.4, 8.3 Hz), 7.65-7.52 (m, 5H), 7.52-7.48 (m, 2H), 7.22 (d, 1H, J=8.8 Hz), 7.10 (d, 1H, J=8.8 Hz), 6.41 (m, 1H), 4.61 (d, 1H, J=13.2 Hz), 4.52 (d, 1H, J=12.7 HZ), 4.22-4.20 (m, 2H), 3.72-3.67 (m, 1H), 3.36-3.31 (m, 1H), 2.75-2.65 (m, 1H).

reactant | bis(pinacolato)diboron | 1.72 mmol, 0.437 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4.62 mmol, 0.454 g | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.0461 mmol, 0.0377 g | ClCCl | CH2Cl2
reactant | trifluoro-methanesulfonic acid 1-benzyl-1,2,5,6-tetrahydro-pyridin-3-yl ester | C(C1=CC=CC=C1)N1CC(=CCC1)OS(=O)(=O)C(F)(F)F | C13H14F3NO3S
reactant | boronate | B([O-])[O-]
reactant | potassium carbonate | 4.70 mmol, 0.650 g | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | 0.0951 mmol, 0.0777 g | ClCCl | CH2Cl2
reactant | 6-(4-iodo-phenoxy)-nicotinamide | 1.71 mmol, 0.582 g | IC1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1 | C12H9IN2O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 30 mL | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.0492 mmol, 0.0273 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 6-[4-(1-Benzyl-1,2,5,6-tetrahydro-pyridin-3-yl)-phenoxy]-nicotinamide hydrochloride salt | 0.175 g, 29% | Cl.C(C1=CC=CC=C1)N1CC(=CCC1)C1=CC=C(OC2=NC=C(C(=O)N)C=C2)C=C1 | InChI=1S/C24H23N3O2.ClH/c25-24(28)20-10-13-23(26-15-20)29-22-11-8-19(9-12-22)21-7-4-14-27(17-21)16-18-5-2-1-3-6-18;/h1-3,5-13,15H,4,14,16-17H2,(H2,25,28);1H
